US04132799
A mixture of anti-tricyclo[4.2.2.02,5 ]dec-3,9-diene-endo-7,endo-8-dicarboxylic anhydride (2.02 g., 0.01 mole), 5-aminobenzoxazolin-2-one (1.50 g., 0.01 mole) and pyridine (20 ml.) is heated under reflux for six hours. The cooled solution (25° C.) is diluted with water (200 ml.) and the precipitate is collected by filtration, 2.60 g., m.p. 252°-257° C. Recrystallization from 2-propanol provides N-(5-benzoxazolinyl-2-one)-antitricyclo[4.2.2.02,5 ]dec-3,9-diene-endo-7,endo-8-dicarboximide, m.p. 287.5°-290° C.

reactant | 5-aminobenzoxazolin-2-one | 0.01 mole, 1.50 g | NC=1C=CC2=C(NC(O2)=O)C1 | C7H6N2O2
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 200 ml | O | H2O
product | dec-3,9-diene | CCC=CCCCCC=C | C10H18
